US06166028
(2-Fluoro-5-trifluoromethyl-phenoxy)-acetonitrile
A solution of 2-fluoro-5-trifluoromethylphenol (25 g) in reagent grade acetone (0.55 L) is treated with solid potassium carbonate (7.7 g) followed by the rapid addition of neat bromoacetonitrile (10 mL). The heterogenous mixture is stirred vigorously for approximately 20 hours whereupon it is poured into water and extracted into diethyl ether. The combined ether extracts are washed with saturated sodium chloride and dried over anhydrous potassium carbonate. Filtration and concen-tration under reduced pressure gives a pale orange solid which is then chromatographed on silica gel, eluting with dichloromethane, to give the desired product as white solid (28.3 g).

reactant | 2-fluoro-5-trifluoromethylphenol | 25 g | FC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F4O
reactant | acetone | 0.55 L | CC(=O)C | C3H6O
reactant | potassium carbonate | 7.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 10 mL | BrCC#N | C2H2BrN
solvent | water | O | H2O
product | (2-Fluoro-5-trifluoromethyl-phenoxy)-acetonitrile | 28.3 g | FC1=C(OCC#N)C=C(C=C1)C(F)(F)F | C9H5F4NO
